US07491710B2
Stage III: Procedure A Preparation of 5-benzyloxy-3-iodo-1H-indazole
68.84 g of iodine and then 23 g of potassium hydroxide are added to a solution of 28.24 g of 1-(5-benzyloxyindazol-1-yl)ethanone in 620 ml of dimethylformamide. The reaction medium is stirred at ambient temperature for approximately 3 hours. 23 g of potassium hydroxide are added and the medium is stirred at ambient temperature for 48 hours. The medium is treated with 600 ml of a sodium thiosulfate solution (100 g of sodium thiosulfate in 250 ml of distilled water), 600 ml of distilled water and 1 liter of ethyl acetate. The medium is stirred for a few minutes and is then separated by settling out. The aqueous phase is extracted with 4×600 ml of ethyl acetate. The combined organic phases are washed with 1 liter of a saturated sodium chloride solution, and then dried over magnesium sulfate. The solvent is evaporated off under reduced pressure in a rotary evaporator. The reaction crude is taken up in dichloromethane, and the solid is filtered off and rinsed with dichloromethane and with ethyl ether. 20.8 g of 5-benzyloxy-3-iodo-1H-indazole are collected.

reactant | iodine | 68.84 g | II | I2
reactant | potassium hydroxide | 23 g | [OH-].[K+]
reactant | 1-(5-benzyloxyindazol-1-yl)ethanone | 28.24 g | C(C1=CC=CC=C1)OC=1C=C2C=NN(C2=CC1)C(C)=O | C16H14N2O2
reactant | potassium hydroxide | 23 g | [OH-].[K+]
reactant | sodium thiosulfate | 600 ml, 100 g | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dimethylformamide | 620 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ethyl acetate | 1 liter | C(C)(=O)OCC | C4H8O2
solvent | water | 600 ml | O | H2O
product | 5-benzyloxy-3-iodo-1H-indazole | C(C1=CC=CC=C1)OC=1C=C2C(=NNC2=CC1)I | C14H11IN2O
